US06566387B1
To a solution of 4-cyano-2-hydroxyl aniline (1.0 g, 7.5 mmol) in ethanol (20 mL) was added 2-bromophenylisothiocyanate (1.0 mL, 7.5 mmol). After 24 h, the reaction mixture was concentrated under reduced pressure to give 2.0 g (77%) of N-(4-cyano-2-hydroxyphenyl)-N′-(2-bromophenyl) thiourea as a yellow solid which required no further purification. 1H NMR (400 MHz, DMSO) δ 10.8 (s, 1H), 10.1 (s, 1H), 9.6 (s, 1H), 8.7 (d, 1H), 7.7 (d, 1H), 7.6 (d, 1H), 7.4 (t, 1H), 7.25 (d, 1H and d, 2H); MS(EI) m/e 229 (100), 348 (75 (M+)), 462 (30), 695 (10).

reactant | 4-cyano-2-hydroxyl aniline | 7.5 mmol, 1.0 g | C(#N)C1=CC(=C(N)C=C1)O | C7H6N2O
reactant | 2-bromophenylisothiocyanate | 7.5 mmol, 1.0 mL | BrC1=C(C=CC=C1)N=C=S | C7H4BrNS
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(4-cyano-2-hydroxyphenyl)-N′-(2-bromophenyl) thiourea | 2.0 g, 77% | C(#N)C1=CC(=C(C=C1)NC(=S)NC1=C(C=CC=C1)Br)O | C14H10BrN3OS
